US05756508
A mixture of 1.5 g of ethyl 1-methyl-5-imidazolecarboxylate, 5 mL of ethanol and 5 mL of 10% NaOH was stirred at room temperature for 12 h. The mixture was acidified to pH 2 with conc. HCl, diluted with 10 mL of ice water. The precipitated product was collected by filtration in 2 crops. Drying under vacuum gave 843 mg of 1-methyl-5-imidazolecarboxylic acid as a white solid.

reactant | ethyl 1-methyl-5-imidazolecarboxylate | 1.5 g | CN1C=NC=C1C(=O)OCC | C7H10N2O2
reactant | NaOH | 5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-methyl-5-imidazolecarboxylic acid | 843 mg | CN1C=NC=C1C(=O)O | C5H6N2O2
